US07659421B2
Step 3: Preparation of 3-(4-Bromo-3-propylphenyl)pentan-3-ol
In a 1-liter three-necked round-bottomed flask, equipped with a magnetic stirrer, a thermometer and a dropping funnel, introduce under nitrogen 47 g (0.18 mol) of methyl 4-bromo-3-propylbenzoate in solution in 250 ml of tetrahydrofuran. Cool the mixture to −5° C. with the aid of a bath of ice and sodium chloride. Add 134 cm3 of a 3M solution of ethylmagnesium bromide in diethyl ether, then allow the reaction temperature to increase without exceeding 5° C. After three hours of reaction, hydrolyze the reaction mixture with 170 cm3 of 2.5M ammonium chloride solution. Extend the organic phase with 200 cm3 of ethyl acetate. Separate the phases and extract the aqueous phase with 2×200 cm3 of methylene chloride. Combine the organic phases, dry them over sodium sulfate and evaporate the solvents. This gives 49.8 g of 3-(4-bromo-3-propylphenyl)pentan-3-ol in the form of colorless oil. (Yield=96%)

reactant | methyl 4-bromo-3-propylbenzoate | BrC1=C(C=C(C(=O)OC)C=C1)CCC | C11H13BrO2
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | ammonium chloride | 2.5M, 170 cm3 | [Cl-].[NH4+]
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | 200 cm3 | C(C)(=O)OCC | C4H8O2
product | 3-(4-Bromo-3-propylphenyl)pentan-3-ol | Yield=96% | BrC1=C(C=C(C=C1)C(CC)(CC)O)CCC | C14H21BrO
